US06008213
e) Ethyl (±)-3-[3-carboxy-1-propyl]-5H-dibenzo [a,d]cycloheptene-10-acetate
A solution of ethyl (±)-3-[4-hydroxy-1-butyl]-5H-dibenzo[a,d]cycloheptene-10-acetate (342.4 mg, 0.97 mmole) in anhydrous CH2Cl2 (19 mL) was cooled to 0° C. under argon, and 2,2,6,6-tetramethyloxopiperidinium chloride (J. Org. Chem. 1985, 50, 1332-1334; 260 mg, 1.36 mmole) was added in one portion. The reaction was stirred at 0° C. for 1 hr, then 2-methyl-2-butene (1.2 mL, 11 64 mmole) was added, followed by a cold (0° C.) solution of NaClO2 (0.88 g, 7.76 mmole) and NaH2PO4 (0.90 g, 6.50 mmole) in H2O (26 mL). After 10 min, the reaction was diluted with EtOAc (100 mL) and the layers were separated. The organic layer was washed sequentially with cold 1.0 N HCl (10 mL) and saturated brine (20 mL), dried (MgSO4), and concentrated. Silica gel chromatography (gradient: 1:1 EtOAc/CHCl3 then 9:9:2 EtOAc/CHCl3 /EtOH) gave impure title compound. Rechromatography on silica gel (7:3:0.1 toluene/EtOAc/AcOH) gave the pure title compound (233.7 mg, 66%): TLC (1:1 EtOAc/CHCl3) Rf 0.46; 1H NMR (400 MHz, CDCl3) δ 7.05-7.22 (m, 4 H), 6.92-7.05 (m, 3 H), 4.34 (d, J=15.0 Hz, 1 H), 4.10-4.25 (m, 2 H), 3.80-3.90 (m, 2 H), 3.33 (dd, J=15.1, 4.1 Hz, 1 H), 2.95 (dd, J=15.1, 9.4 Hz, 1 H), 2.48-2.60 (m, 4 H), 2.48-2.60 (m, 4 H), 2.37 (t, J=7.4 Hz, 2 H), 1.87-2.00 (m, 2 H), 1.27 (t, J=7.2 Hz, 3 H); MS (ES) m/e 389 (M+Na)+, 367 (M+H)+.

reactant | ethyl (±)-3-[4-hydroxy-1-butyl]-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.97 mmole, 342.4 mg | OCCCCC=1C=CC2=C(CC3=C(C(=C2)CC(=O)OCC)C=CC=C3)C1 | C23H26O3
reactant | 2,2,6,6-tetramethyloxopiperidinium chloride | 1.36 mmole, 260 mg | [Cl-].CC1([N+](C(CCC1)(C)C)=O)C
reactant | 2-methyl-2-butene | 64 mmole, 1.2 mL | CC(C)=CC | C5H10
reactant | NaClO2 | 7.76 mmole, 0.88 g | [O-]Cl=O.[Na+]
solvent | CH2Cl2 | 19 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 26 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Ethyl (±)-3-[3-carboxy-1-propyl]-5H-dibenzo [a,d]cycloheptene-10-acetate | C(=O)(O)CCCC=1C=CC2=C(CC3=C(C(=C2)CC(=O)OCC)C=CC=C3)C1 | C23H24O4
